US09169259B2
A solution of methyl 3-(6-amino-5-bromopyridazin-3-yl)benzoate (1 g, 3.25 mmol), 2-chloro-1,1-diethoxyethane (0.6 g, 3.9 mmol), PTSA (0.62 g, 3.9 mmol) in isopropanol (10 mL) was heated to 80° C. for 40 h. After cooling to room temperature, the solution was concentrated in vacuo. The resulting mixture was treated with a saturated NaHCO3 solution (50 mL), extracted with dichloromethane (50 mL×3), dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate (0.6 g, 56%) as a white solid. LC-MS: [M+H]+, 332.0, 333.9, tR=1.520 min.

reactant | methyl 3-(6-amino-5-bromopyridazin-3-yl)benzoate | 3.25 mmol, 1 g | NC1=C(C=C(N=N1)C=1C=C(C(=O)OC)C=CC1)Br | C12H10BrN3O2
reactant | 2-chloro-1,1-diethoxyethane | 3.9 mmol, 0.6 g | ClCC(OCC)OCC | C6H13ClO2
reactant | PTSA | 3.9 mmol, 0.62 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate | 0.6 g, 56% | BrC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C14H10BrN3O2
